US04816181
Optically active 4-(1-methylheptyloxycarbonyl)phenol (10 g, 0.04 mol) was dissolved in pyridine (70 ml), followed by dropwise adding to the solution, under cooling, 4-octyloxycarbonyloxybenzoic chloride (11.4 g, 0.035 mol) prepared in the same manner as in the paragraph (ii) of Example 1, agitating the mixture at 50°-60° C. for 2 hours, placing water and toluene in the reaction solution after completion of the reaction, sufficiently agitating the mixture, washing the separated toluene layer with 6N--HCl, then with 2N-NaOH aqueous solution, further with water until the washing water became neutral, drying the resulting toluene layer with anhydrous sodium sulfate, distilling off toluene to obtain a raw objective product, and recrystallizing this product from ethanol to obtain optically active 4-octyloxycarbonyloxybenzoic acid 4-(1-methylheptyloxycarbonyl)phenyl ester (5.2 g), which exhibited no liquid crystal phase and had a m.p. of 33.0° C. Further, by replacing octyl chloroformate used, by other alkyl chloroformates, various optically active 4-alkyloxycarbonyloxybenzoic acid 4-(1-methyl-heptyloxycarbonyl)phenyl esters are obtained. The phase transition points thereof are shown in Tables 1 and 2.

reactant | 4-(1-methylheptyloxycarbonyl)phenol | 0.04 mol, 10 g | CC(CCCCCC)OC(=O)C1=CC=C(C=C1)O | C15H22O3
reactant | 4-octyloxycarbonyloxybenzoic chloride | 0.035 mol, 11.4 g | C(CCCCCCC)OC(=O)OC1=CC=C(C(=O)Cl)C=C1 | C16H21ClO4
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4-octyloxycarbonyloxybenzoic acid 4-(1-methylheptyloxycarbonyl)phenyl ester | 5.2 g | CC(CCCCCC)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OC(=O)OCCCCCCCC)=O | C31H42O7
